US06544985B2
A mixture of 3-thiocarbamoyl-benzoic acid methyl ester (7.8 g), 1,3-dichloro -2-propanone (8.4 g) and NaHCO3 (8.4 g) in 1,4-dioxane (180 mL) was heated to 60° C. for 24 h. The reaction mixture was cooled to 20° C. and added to a stirred solution of NaOMe (5.4 g) in MeOH (200 mL). Stirring was continued for 0.5 h. The mixture was poured into ice-cold 2N HCl (200 mL) and the product was extracted with AcOEt. The organic layer was washed with brine, dried and evaporated in vacuum. The residue was crystallized from CH2Cl2/hexane to give 3-(4-hydroxymethyl-thiazol-2-yl)-benzoic acid methyl ester (7.5 g) as light-brown crystals, mp 115-117° C.

reactant | 3-thiocarbamoyl-benzoic acid methyl ester | 7.8 g | COC(C1=CC(=CC=C1)C(N)=S)=O | C9H9NO2S
reactant | 1,3-dichloro -2-propanone | 8.4 g | ClCC(CCl)=O | C3H4Cl2O
reactant | NaHCO3 | 8.4 g | C(=O)(O)[O-].[Na+]
reactant | NaOMe | 5.4 g | C[O-].[Na+]
solvent | 1,4-dioxane | 180 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 200 mL | CO | CH4O
product | 3-(4-hydroxymethyl-thiazol-2-yl)-benzoic acid methyl ester | 7.5 g | COC(C1=CC(=CC=C1)C=1SC=C(N1)CO)=O | C12H11NO3S
